* C:\users\comuna\Desktop\IST\2ano\2semestre\CEB\IST-CEB\labs\lab0\Draft2.asc
V1 N001 0 SINE(0 5 5k)
C1 N002 0 10µ
D1 N001 N002 D
.model D D
.lib C:\users\comuna\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0.0004
* Aval_1_13
.backanno
.end
