* C:\users\comuna\Desktop\IST\2ano\2semestre\CEB\IST-CEB\labs\lab1\lab1.asc
Q2 Vcc N001 N005 0 BC547B
Q1 N001 N004 N006 0 BC547B
RC Vcc N001 2.2k
R2 Vcc N007 68k
C1 N003 N004 10µ
R3 N002 N003 12k
V1 N002 0 SINE(0 100m 2k) AC 1 0
R4 N007 0 39k
R5 N006 N008 350
R6 N008 0 910
C2 N008 0 1µ
R7 N005 0 2.4k
C3 Vout N005 10µ
R8 Vout 0 1k
V2 Vcc 0 5
.model NPN NPN
.model PNP PNP
.lib C:\users\comuna\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 10m 0
.backanno
.end
